US04556715
4-(4-Chlorobenzyloxy)phenethyl nicotinate
Benzenesulfonyl chloride (10.6 g, 0.06 mole) is dropped with stirring at 60° C. to a nicotinic acid in 30 ml of pyridine to yield uniform solution. After the solution was stirred at 50°-60° C. for ten minutes, 4-(4-chlorobenzyloxy)phenyl ethanol (13.1 g, 0.05 mole) is added to the solution, and the mixture is stirred for 45 minutes at room temperature. The reaction mixture is poured into 300 ml of ice water to give crystals. The crystals are dissolved into 300 ml of chloroform, the chlorofrom layer is washed with 5% pottassium carbonate solution and water. The chloroform layer is dried over sodium sulfate, and the chloroform is evaporated to give crude crystals. The crude crystals are recrystallized from isopropanol to obtain 15.5 g (84.3%) of a title compound.

reactant | Benzenesulfonyl chloride | 0.06 mole, 10.6 g | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
reactant | nicotinic acid | C(C1=CN=CC=C1)(=O)O | C6H5NO2
reactant | 4-(4-chlorobenzyloxy)phenyl ethanol | 0.05 mole, 13.1 g | ClC1=CC=C(COC2=CC=C(C=C2)C(C)O)C=C1 | C15H15ClO2
reactant | chloroform | 300 ml | C(Cl)(Cl)Cl | CHCl3
solvent | pyridine | 30 ml | N1=CC=CC=C1 | C5H5N
product | 4-(4-Chlorobenzyloxy)phenethyl nicotinate | 15.5 g, 84.3% | C(C1=CN=CC=C1)(=O)OCCC1=CC=C(C=C1)OCC1=CC=C(C=C1)Cl | C21H18ClNO3
